US05177112
Preparation of 2-(N-n-propyl-N-2-[naphthyl]ethylamino)-5-hydroxytetralin
A mixture of 2-(N-n-propylamino)-5-methoxytetralin, 2-naphthylacetic acid and trimethylaminoborohydride in dry xylene was refluxed under an atmosphere of nitrogen as described by Horn et al. Pharm. Weekbld. Sci. Ed. 7 208-211, 1985. The resulting methoxy intermediate was demethylated using boron tribromide as described in the above article to yield the desired product.

reactant | 2-(N-n-propylamino)-5-methoxytetralin | C(CC)NC1CC2=CC=CC(=C2CC1)OC | C14H21NO
reactant | 2-naphthylacetic acid | C1=C(C=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(N-n-propyl-N-2-[naphthyl]ethylamino)-5-hydroxytetralin | C(CC)N(CCC1=CC=CC2=CC=CC=C12)C1CC2=CC=CC(=C2CC1)O | C25H29NO
